US08461209B2
(1) (1-benzyl-1H-pyrazol-4-yl)methoxy-tert-butyldimethylsilane
To a solution of (1-benzyl-1H-pyrazol-4-yl)methanol (3.84 g) in methylene chloride (100 mL) were added triethylamine (2.80 mL), 4-dimethylaminopyridine (100 mg) and tert-butyldimethylsilyl chloride (3.80 g) at room temperature, and the mixture was stirred for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and insoluble material was removed by filtration. Ethyl acetate (100 mL) was added to extract the filtrate, and the organic layer was washed with brine. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (6.00 g).

reactant | (1-benzyl-1H-pyrazol-4-yl)methanol | 3.84 g | C(C1=CC=CC=C1)N1N=CC(=C1)CO | C11H12N2O
reactant | triethylamine | 2.80 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 3.80 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (1-benzyl-1H-pyrazol-4-yl)methoxy-tert-butyldimethylsilane | 6.00 g | C(C1=CC=CC=C1)N1N=CC(=C1)CO[Si](C)(C)C(C)(C)C | C17H26N2OSi
